US06235763B1
7.1 g (0.04 mol) of 5-nitroindan-1-one are dissolved in 135 ml of glacial acetic acid, and 1.12 ml of 48 percent hydrobromic acid solution are added. Then 2.06 ml of bromine in 40 ml of glacial acetic acid are added dropwise at room temperature to the solution, which is then stirred for 2 h. The reaction mixture is poured into ice-water and extracted with dichloromethane and, after drying, the solvent is removed from the organic phase in vacuo. The residue is purified by column filtration (silica gel; dichloromethane). 2-Bromo-6-nitroindan-1-one is obtained with a melting point of 113° C.

reactant | 5-nitroindan-1-one | 0.04 mol, 7.1 g | [N+](=O)([O-])C=1C=C2CCC(C2=CC1)=O | C9H7NO3
reactant | hydrobromic acid | 1.12 ml | Br | BrH
reactant | bromine | 2.06 ml | BrBr | Br2
reactant | acetic acid | 135 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-6-nitroindan-1-one | BrC1C(C2=CC(=CC=C2C1)[N+](=O)[O-])=O | C9H6BrNO3
